US09290451B2
6-Cyclopropylmethoxy-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using the mixture of 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid and 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid (mixture from Example 114 d), and α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine (CAN 1153831-97-0) as starting materials, MS (EI): m/e=387.2 [M+H]+.

reactant | 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1COCC1 | C14H17NO4
reactant | 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1OCCC1 | C14H17NO4
reactant | α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine | CC(N)(C1=NOC(=N1)C)C | C6H11N3O
product | 6-Cyclopropylmethoxy-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)C1COCC1)OCC1CC1 | C20H26N4O4
